US07179823B1
Sodium hydride (60%, oily, 2.55 g) was added to a mixture of methyl 4-phenylpyrrole-3-carboxylate (11.61 g), 4-benzyloxybenzyl chloride (15.23 g) and N,N-dimethylformamide (100 ml) at 0° C., and the mixture was stirred for one hour. The reaction mixture was poured into dilute hydrochloric acid, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and then concentrated. The residue was subjected to silica gel column chromatography, and methyl 1-(4-benzyloxybenzyl)-4-phenylpyrrole-3-carboxylate (22.16 g, yield: 97%) was obtained from the fraction eluted with ethyl acetate-hexane (1:4, volume ratio). This was recrystallized from ethyl acetate-hexane. Melting point: 97–98° C.

reactant | Sodium hydride | 2.55 g | [H-].[Na+]
reactant | methyl 4-phenylpyrrole-3-carboxylate | 11.61 g | C1(=CC=CC=C1)C=1C(=CNC1)C(=O)OC | C12H11NO2
reactant | 4-benzyloxybenzyl chloride | 15.23 g | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | methyl 1-(4-benzyloxybenzyl)-4-phenylpyrrole-3-carboxylate | 22.16 g, yield: 97% | C(C1=CC=CC=C1)OC1=CC=C(CN2C=C(C(=C2)C2=CC=CC=C2)C(=O)OC)C=C1 | C26H23NO3
